US06921753B2
6-[(2,2-Diphenylethyl)amino]-9-(tetrahydro-2H-pyran-2-yl)-9H-purine-2-carbonitrile
A solution of N-(2,2-diphenylethyl)-2-(methylsulfonyl)-9-(tetrahydro-2H-pyran-2-yl)-9H-purin-6-amine (Preparation 22) (20.1 g, 42.1 mmol) in dry N,N-dimethylformamide (100 ml) was treated with potassium cyanide (5.5 g, 84.6 mmol) and the mixture was heated at 120° C. for 24 hours under a nitrogen atmosphere. The mixture was cooled to room temperature and diluted with water (1000 ml) and stirring was continued for a further 1 hour. The resultant solid was filtered off and washed several times with water. The solid was then dissolved in dichloromethane and the solution was washed with water, dried over anhydrous magnesium sulphate, filtered and evaporated under reduced pressure. The residue was azeotroped with diethyl ether (twice) to afford the title compound as an oil (17 g).

reactant | N-(2,2-diphenylethyl)-2-(methylsulfonyl)-9-(tetrahydro-2H-pyran-2-yl)-9H-purin-6-amine | 42.1 mmol, 20.1 g | C1(=CC=CC=C1)C(CNC1=C2N=CN(C2=NC(=N1)S(=O)(=O)C)C1OCCCC1)C1=CC=CC=C1 | C25H27N5O3S
reactant | potassium cyanide | 84.6 mmol, 5.5 g | [C-]#N.[K+]
solvent | N,N-dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
solvent | water | 1000 ml | O | H2O
product | 6-[(2,2-Diphenylethyl)amino]-9-(tetrahydro-2H-pyran-2-yl)-9H-purine-2-carbonitrile | 17 g | C1(=CC=CC=C1)C(CNC1=C2N=CN(C2=NC(=N1)C#N)C1OCCCC1)C1=CC=CC=C1 | C25H24N6O
